* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\AD713.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
Vin IN 0 SINE(0 1 10K)
R1 N001 0 10K
R2 OUT N001 10K
V2 -V 0 -15
X§U1 IN N001 +V -V OUT AD712
.tran 1m
.lib ADI1.lib
.backanno
.end
